US07057076B2
5-(1-Hexyl-cyclopentyl)resorcinol, (compound 1a).
To a solution of 1-(3,5-dimethoxyphenyl)-1-hexyl-cyclopentane (1 equiv.) in dry methylene chloride (0.04M) at −78° C. under an argon atmosphere was added boron tribromide (2.5 equiv., 1M solution in methylene chloride). Following the addition, the reaction temperature was gradually raised over a period of 3 h to −20° C. Stirring was continued at that temperature until completion of the reaction. Unreacted boron tribromide was destroyed by addition of methanol and ice at 0° C. The resulting mixture was warmed at room temperature, stirred for 40 min and the solvent was removed in vacuo. The residual oil was diluted with ethyl acetate and the solution was washed with saturated sodium bicarbonate, water and brine. The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. Purification by flash column chromatography (40% diethyl ether-petroleum ether as eluent) afforded the title compound in 90% yield.

reactant | 1-(3,5-dimethoxyphenyl)-1-hexyl-cyclopentane | 1 equiv. | COC=1C=C(C=C(C1)OC)C1(CCCC1)CCCCCC | C19H30O2
reactant | boron tribromide | 1M, 2.5 equiv. | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 0.04M | C(Cl)Cl | CH2Cl2
product | 5-(1-Hexyl-cyclopentyl)resorcinol | 90% yield | C(CCCCC)C1(CCCC1)C=1C=C(C=C(O)C1)O | C17H26O2
